US05304641
Methyl 7β-benzoylamino-3-methylenecepham-4carboxylate
To 48 ml of a solution of SmI2 in THF (0.1M) a solution of 1 g of methyl 7β-benzoylamino-3-iodomethyl-3-cephem-4carboxylate in 100 ml of dry THF, was added by dropping at -78° C. The resulting mixture was allowed to warm to room temperature in 0.5 hours. Water was added, and the mixture stirred for further 0.2 hours at room temperature. Methylene chloride was added, and the organic phase was separated, washed with brine, dried, and evaporated in vacuo. After column chromatography the title product was isolated in 65% yield.

reactant | methyl 7β-benzoylamino-3-iodomethyl-3-cephem-4carboxylate | 1 g | C(C1=CC=CC=C1)(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CI)C(=O)OC)C1=O | C16H15IN2O4S
reactant | Water | O | H2O
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | 0.1M | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Methyl 7β-benzoylamino-3-methylenecepham-4carboxylate | 65% yield | C(C1=CC=CC=C1)(=O)N[C@H]1[C@@H]2N(C(C(CS2)=C)C(=O)OC)C1=O | C16H16N2O4S
